US09062024B2
Synthesis of 1-acetyl-2,3-dihydro-5-(3-quinolinyl)-1H-1,4-benzodiazepine (compound no. B1-13)
2,3-Dihydro-5-(3-quinolinyl)-1H-1,4-benzodiazepine (0.20 g, 0.73 mmol) was dissolved in 10 mL of methylene chloride, and acetic anhydride (0.1 mL, 1.1 mmol), pyridine (0.18 mL, 2.2 mmol) were added to the resulting solution, followed by stirring at room temperature for 2 hours. Then the resulting solution was distilled off under redused pressure for 14 hours. The resulting reaction solution was cooled to room temperature and added with ethyl acetate. Then the solution was washed with 0.5N citric acid solution, brine and saturated bicarbonate water, followed by drying with magnesium sulfate. The solvent was distilled off under reduced pressure. The resulting residue was purified by silica gel column chromatography (eluent: chloroform:methanol=9:1) to obtain the target compound (0.17 g, yield: 15%).

reactant | 2,3-Dihydro-5-(3-quinolinyl)-1H-1,4-benzodiazepine | 0.73 mmol, 0.20 g | N1=CC(=CC2=CC=CC=C12)C1=NCCNC2=C1C=CC=C2 | C18H15N3
reactant | acetic anhydride | 1.1 mmol, 0.1 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | pyridine | 2.2 mmol, 0.18 mL | N1=CC=CC=C1 | C5H5N
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | 1-acetyl-2,3-dihydro-5-(3-quinolinyl)-1H-1,4-benzodiazepine | 0.17 g, yield: 15% | C(C)(=O)N1CCN=C(C2=C1C=CC=C2)C=2C=NC1=CC=CC=C1C2 | C20H17N3O
